US06855843B2
A mixture of 4-amino-2-chlorobenzoic acid methyl ester (0.46 g) and 2,5-dimethoxytetrahydrofuran (0.33 mL) in AcOH (16 mL) was heated under reflux for 2 h. The mixture was cooled to room temperature, diluted with water and extracted with EtOAc. The extract was washed with satd. NaHCO3 and brine, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (silica gel; eluent: hexane/EtOAc 5/1) to yield 0.48 g of 2-chloro-4-(1-pyrrolyl)benzoic acid methyl ester. ESMS: m/z 236 (MH+).

reactant | 4-amino-2-chlorobenzoic acid methyl ester | 0.46 g | COC(C1=C(C=C(C=C1)N)Cl)=O | C8H8ClNO2
reactant | 2,5-dimethoxytetrahydrofuran | 0.33 mL | COC1OC(CC1)OC | C6H12O3
solvent | AcOH | 16 mL | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-chloro-4-(1-pyrrolyl)benzoic acid methyl ester | 0.48 g | COC(C1=C(C=C(C=C1)N1C=CC=C1)Cl)=O | C12H10ClNO2
